US04965277
(a) 1-(2-(2,4-Dichlorophenyl)-2-(3-phenylallylimino)ethyl-1H-imidazole
12.34 g (0.048 mol) of 2,4-dichlorophenacylimidazole and 6.66 g (0.05 mol) of cinnamylamine were suspended in 100 ml of toluene and the suspension was heated under reflux, using a water separator, until no further water of reaction was separated off. The solvent was removed in vacuo, after which 17.4 g (98% of theory) of a viscous oil were obtained.

reactant | 2,4-dichlorophenacylimidazole | 0.048 mol, 12.34 g | ClC1=C(C(CC=2NC=CN2)=O)C=CC(=C1)Cl | C11H8Cl2N2O
reactant | cinnamylamine | 0.05 mol, 6.66 g | C(C=CC1=CC=CC=C1)N | C9H11N
reactant | water | O | H2O
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2,4-Dichlorophenyl)-2-(3-phenylallylimino)ethyl-1H-imidazole | ClC1=C(C=CC(=C1)Cl)C=1N(C=CN1)CC=NCC=CC1=CC=CC=C1 | C20H17Cl2N3
